US05760054
To a stirred solution of 0.73 g of 1,1-dioxido-2-(4-hydroxybutyl)-isothiazolo[5,4-b]pyridin-3(2H)-one and 0.8 mL of triethylamine in 50 mL of dry tetrahydrofuran at 0° C. was added 0.63 g of technical grade 4-nitrobenzenesulfonyl chloride. After 4 h, the solution was filtered and concentrated to dryness under reduced pressure. The residue was dissolved in 100 mL of ethyl acetate, washed with 10 mL of saturated sodium carbonate and dried over MgSO4. Concentration under reduced pressure gave 1.4 g of crude 1,1-dioxido-2-(4-(4-nitrobenzenesulfonyloxy)butyl)-isothiazolo[5,4-b]pyridin-3(2H)-one as an oil. The crude product was a mixture of 4-nitrobenzenesulfonate contaminated with a small amount of chloride by NMR, and was used in the next step without further purification.

reactant | 1,1-dioxido-2-(4-hydroxybutyl)-isothiazolo[5,4-b]pyridin-3(2H)-one | 0.73 g | O=S1(N(C(C=2C1=NC=CC2)=O)CCCCO)=O | C10H12N2O4S
reactant | triethylamine | 0.8 mL | C(C)N(CC)CC | C6H15N
reactant | 4-nitrobenzenesulfonyl chloride | [N+](=O)([O-])C1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClNO4S
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | 1,1-dioxido-2-(4-(4-nitrobenzenesulfonyloxy)butyl)-isothiazolo[5,4-b]pyridin-3(2H)-one | 1.4 g | O=S1(N(C(C=2C1=NC=CC2)=O)CCCCOS(=O)(=O)C2=CC=C(C=C2)[N+](=O)[O-])=O | C16H15N3O8S2
